US08138187B2
A solution of 4.5 g of 8-dimethylamino-1,4-dioxa-spiro[4.5]decane-8-carbonitrile, 50 mg of cyclopentadienyl-cycloocta-1,5-diene-cobalt(l) [cpCo(cod)] and 100 ml of toluene was transferred into the reaction vessel in an inert gas/acetylene countercurrent. After saturation with acetylene, the reaction solution was irradiated at a temperature of 25° C. over a period of 6 hours, with vigorous stirring. The reaction was interrupted by switching off the lamp and supplying air and the reaction solution was concentrated. The crude product obtained (5.47 g) was taken up in a mixture of water (8.7 ml) and conc. hydrochloric acid (15 ml) and the mixture was stirred at RT overnight. For working up, the mixture was washed with diethyl ether (3×100 ml), the phases were separated, the aqueous phase was rendered alkaline with 32 per cent strength by weight sodium hydroxide solution and extracted with methylene chloride (3×100 ml) and the combined extracts were dried (Na2SO4), filtered and concentrated. 3.72 g of 4-dimethylamino-4-pyridine-2-ylcyclohexanone (Ket-11) were obtained.

reactant | 8-dimethylamino-1,4-dioxa-spiro[4.5]decane-8-carbonitrile | 4.5 g | CN(C1(CCC2(OCCO2)CC1)C#N)C | C11H18N2O2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | acetylene | C#C | C2H2
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | water | 8.7 ml | O | H2O
catalyst | cyclopentadienyl-cycloocta-1,5-diene cobalt | 50 mg | C1(C=CC=C1)C1=CCCC=CCC1.[Co]
product | 4-dimethylamino-4-pyridine-2-ylcyclohexanone | 3.72 g | CN(C1(CCC(CC1)=O)C1=NC=CC=C1)C | C13H18N2O
